US07288541B2
To a solution of 6.34 g (41.7 mmol) of (3S)-1-benzyl-4,4-dimethyl-3-pyrrolidinol in 250 mL of ethanol and 50 mL of 1N hydrochloric acid was added 300 mg of 10% palladium on carbon. The reaction mixture was stirred under 40 psi of hydrogen gas for 18 h. To the reaction mixture was added 300 mg of 10% palladium on carbon and 2 mL of concentrated hydrochloric acid. The reaction mixture was stirred under 40 psi of hydrogen gas for 72 h. The catalyst was filtered off over celite, and the filtrate was concentrated. Several portions of toluene were distilled from the residue, which was then dried under high vacuum to afford 4.74 g (>99%) of (3S)-4,4-dimethyl-3-pyrrolidinol hydrochloride. 1H-NMR (300 MHz, DMSO-d6): δ 9.46 (d, J=40 Hz, 2H), 5.43 (br s, 1H), 3.75 (m, 1H), 3.36 (m, 1H), 2.88 (m, 3H), 0.96 (d, J=10 Hz, 6H).

reactant | (3S)-1-benzyl-4,4-dimethyl-3-pyrrolidinol | 41.7 mmol, 6.34 g | C(C1=CC=CC=C1)N1C[C@H](C(C1)(C)C)O | C13H19NO
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 1N, 50 mL | Cl | ClH
reactant | hydrochloric acid | 2 mL | Cl | ClH
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
catalyst | palladium on carbon | 300 mg | [Pd] | Pd
product | (3S)-4,4-dimethyl-3-pyrrolidinol hydrochloride | 4.74 g, >99% | Cl.CC1([C@@H](CNC1)O)C | InChI=1S/C6H13NO.ClH/c1-6(2)4-7-3-5(6)8;/h5,7-8H,3-4H2,1-2H3;1H/t5-;/m1./s1
